US04264599
1.1 g of 2-chloro-3-(2,3-epoxy-propoxy)-6-methylpyridine and 0.76 g of 1-(4-piperidyl)-imidazolidin-2-one are refluxed in 40 ml of isopropanol for 1 hour. Evaporating off the solvent and recrystallising the residue from the isopropanol/ether yields 1-{1-[2-hydroxy-3-(2-chloro-6-methyl-3-pyridyloxy)-propyl]-4-piperidyl}-imidazolidin-2-one with a melting point of 175°-180°.

reactant | 2-chloro-3-(2,3-epoxy-propoxy)-6-methylpyridine | 1.1 g | ClC1=NC(=CC=C1OCC1CO1)C | C9H10ClNO2
reactant | 1-(4-piperidyl)-imidazolidin-2-one | 0.76 g | N1CCC(CC1)N1C(NCC1)=O | C8H15N3O
solvent | isopropanol | 40 ml | C(C)(C)O | C3H8O
product | 1-{1-[2-hydroxy-3-(2-chloro-6-methyl-3-pyridyloxy)-propyl]-4-piperidyl}-imidazolidin-2-one | OC(CN1CCC(CC1)N1C(NCC1)=O)COC=1C(=NC(=CC1)C)Cl | C17H25ClN4O3
